US07528147B2
4-Chloro-2-[1-methyl-5-methoxy-6-(2-iodoethoxy)-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine is prepared by following the procedure described in example 147c, but using 1.15 g of 4-chloro-2-[1-methyl-5-methoxy-6-(2-chloroethoxy)-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine and 0.950 g of sodium iodide. After purification by flash chromatography (silica, 40/60 by volume ethyl acetate/cyclohexane as eluents, argon), 1.21 g of 4-chloro-2-[1-methyl-5-methoxy-6-(2-iodoethoxy)-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine are obtained, the characteristics of which are as follows:

reactant | 4-chloro-2-[1-methyl-5-methoxy-6-(2-chloroethoxy)-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 1.15 g | ClC1=C2C(=NC=C1)N(C(=C2)C2=CN(C1=CC(=C(C=C21)OC)OCCCl)C)S(=O)(=O)C2=CC=C(C=C2)C | C26H23Cl2N3O4S
reactant | sodium iodide | 0.950 g | [I-].[Na+]
product | 4-Chloro-2-[1-methyl-5-methoxy-6-(2-iodoethoxy)-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | ClC1=C2C(=NC=C1)N(C(=C2)C2=CN(C1=CC(=C(C=C21)OC)OCCI)C)S(=O)(=O)C2=CC=C(C=C2)C | C26H23ClIN3O4S
